US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (53 mg, 76.3 μmol) in 4 M HCl in dioxane (381 μl) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration to provide (S)-N-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide dihydrochloride (41.4 mg, 81%) as a white solid. MS m/z 595 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 76.3 μmol, 53 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | C39H46N6O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 381 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide dihydrochloride | 41.4 mg, 81% | Cl.Cl.C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(=O)C2CCOCC2)C)NC([C@H](C)NC)=O)=O)CC2=C(C=NC3=CC=CC=C23)C2CC2)C=C1 | InChI=1S/C34H38N6O4.2ClH/c1-20(36-3)32(41)38-31-21(2)40(33(42)24-12-14-44-15-13-24)30-16-22(17-35)8-11-29(30)39(34(31)43)19-27-25-6-4-5-7-28(25)37-18-26(27)23-9-10-23;;/h4-8,11,16,18,20-21,23-24,31,36H,9-10,12-15,19H2,1-3H3,(H,38,41);2*1H/t20-,21-,31-;;/m0../s1
